### ISSUE TITLE
internal error: extracted proof has metavariables

### ISSUE THREAD

**Issue by astahfrom** [JLimperg/aesop#18]
Consider the theorem below:

```lean
import Aesop

attribute [aesop safe (cases (patterns := [List.Mem _ []]))] List.Mem
attribute [aesop unsafe 50% (cases (patterns := [List.Mem _ (_ :: _)]))] List.Mem

theorem Mem.split [DecidableEq α] (xs : List α) (v : α) (h : v ∈ xs)
  : ∃ l r, xs = l ++ v :: r := by
  induction xs
  case nil =>
    aesop
  case cons x xs ih =>
    have dec : Decidable (x = v) := inferInstance
    cases dec
    case isFalse no =>
      -- aesop -- aesop: internal error: extracted proof has metavariables.
      let ⟨l, r, prf⟩ : ∃ l r, xs = l ++ v :: r := by aesop
      apply Exists.intro (x :: l)
      apply Exists.intro r
      rw [prf]
      rfl
    case isTrue yes =>
      apply Exists.intro []
      apply Exists.intro xs
      rw [yes]
      rfl
```

The commented `aesop` call produces the following error:

```
aesop: internal error: extracted proof has metavariables.
  Proof: Exists.intro (?m.1084 x h no) (?m.1009 v (x :: xs) h (Eq.refl v) (Eq.refl (x :: xs)) (HEq.refl h))
  Unassigned metavariables: [_uniq.1084, _uniq.1206]
```

Commit: a4294f4ae0dc5831a8466ddf244f0a2d28054223

**Comment by astahfrom** [comment]
While `aesop` on its own no longer produces this error, the call `aesop (add unsafe [cases List])` produces:

```
aesop: internal error: extracted proof has metavariables.
  Proof: ?m.651 v (x :: xs) h (Eq.refl v) (Eq.refl (x :: xs)) (HEq.refl h)
  Unassigned metavariables: [_uniq.8425]
```

Commit: b9bdd88c0547ad4b2f85d455f85cca5026bca342
